US08629157B2
Synthesis of (2S,4R)-4-hydroxy-1-(tetrahydro-pyran-4-ylmethyl)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide
To a solution of (2S,4R)-4-hydroxy-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide; hydrochloride (100 mg, 0.338 mmol) in N,N-dimethylformamide (2 mL) is added tetrahydro-pyran-4-carbaldehyde (77 mg, 0.676 mmol) and acetic acid (0.073 mL, 1.28 mmol). The reaction is stirred at room temperature for 45 minutes before adding sodium cyanoborohydride (42.5 mg, 0.676 mmol). The reaction is stirred at room temperature overnight. The reaction is quenched with saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate twice. The organics are combined and washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification by chromatography on silica eluting with methanol/dichloromethane provides the title compound with low purity and further purification by pre-HPLC yields pure title compound, m/z 352 [M+H+].

reactant | (2S,4R)-4-hydroxy-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1NC[C@@H](C1)O | C12H19N3O3
reactant | hydrochloride | 0.338 mmol, 100 mg | Cl | ClH
reactant | tetrahydro-pyran-4-carbaldehyde | 0.676 mmol, 77 mg | O1CCC(CC1)C=O | C6H10O2
reactant | acetic acid | 1.28 mmol, 0.073 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.676 mmol, 42.5 mg | C(#N)[BH3-].[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (2S,4R)-4-hydroxy-1-(tetrahydro-pyran-4-ylmethyl)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1N(C[C@@H](C1)O)CC1CCOCC1 | C18H29N3O4
